* Example folded cascode OTA testbench from CORA dataset
*----------------------------------------------------------*
* Parameter Definitions
*----------------------------------------------------------*
.param  x_dut_W_1 = 72u
.param  x_dut_L_1 = 2u
.param  x_dut_NG_1 = 8
.param  x_dut_W_2 = 106.5u
.param  x_dut_L_2 = 2u
.param  x_dut_NG_2 = 11
.param  x_dut_W_3 = 44u
.param  x_dut_L_3 = 2.5u
.param  x_dut_NG_3 = 5
.param  x_dut_W_4 = 78u
.param  x_dut_L_4 = 2u
.param  x_dut_NG_4 = 8
.param  x_dut_W_5 = 183u
.param  x_dut_L_5 = 4.5u
.param  x_dut_NG_5 = 19
.param  x_dut_W_6 = 50u
.param  x_dut_L_6 = 3u
.param  x_dut_NG_6 = 5
.param  x_dut_W_7 = 50u
.param  x_dut_L_7 = 3u
.param  x_dut_NG_7 = 5

.param x_dut_IB = 34u
.param VCM = 900m
.param VDD = 1.8
.param x_dut_Vb1 = 1.225
.param x_dut_Vb2 = 1.275
.param CL = 5p
.param temp = 27



*----------------------------------------------------------*
.option reltol=1e-5 + abstol=1e-14
.options savecurrents
*----------------------------------------------------------*
* Control Block
*----------------------------------------------------------*
.control
  echo ==================================
  echo start of Control
  echo ==================================

  set filetype=ascii
  set wr_singlescale
  option numdgt = 3
  * reset

  * save @V1[i]  * Save DC current of V1
  * save @n.x1.XM0.nsg13_lv_pmos[gm]
  * save @n.x1.XM1.nsg13_lv_pmos[gm]
  * save @n.x1.XM2.nsg13_lv_pmos[gm]
  * save @n.x1.XM3.nsg13_lv_nmos[gm]
  * save @n.x1.XM4.nsg13_lv_nmos[gm]
  * save @n.x1.XM5.nsg13_lv_nmos[gm]
  * save @n.x1.XM6.nsg13_lv_nmos[gm]
  * save @n.x1.XM7.nsg13_lv_pmos[gm]
  * save @n.x1.XM8.nsg13_lv_pmos[gm]
  * save @n.x1.XM9.nsg13_lv_pmos[gm]
  * save @n.x1.XM10.nsg13_lv_pmos[gm]
  * save @n.x1.XM11.nsg13_lv_pmos[gm]
  * save @n.x1.XM12.nsg13_lv_pmos[gm]
  * save @n.x1.XM13.nsg13_lv_nmos[gm]  
  * save @n.x1.XM0.nsg13_lv_pmos[gds]
  * save @n.x1.XM1.nsg13_lv_pmos[gds]
  * save @n.x1.XM2.nsg13_lv_pmos[gds]
  * save @n.x1.XM3.nsg13_lv_nmos[gds]
  * save @n.x1.XM4.nsg13_lv_nmos[gds]
  * save @n.x1.XM5.nsg13_lv_nmos[gds]
  * save @n.x1.XM6.nsg13_lv_nmos[gds]
  * save @n.x1.XM7.nsg13_lv_pmos[gds]
  * save @n.x1.XM8.nsg13_lv_pmos[gds]
  * save @n.x1.XM9.nsg13_lv_pmos[gds]
  * save @n.x1.XM10.nsg13_lv_pmos[gds]
  * save @n.x1.XM11.nsg13_lv_pmos[gds]
  * save @n.x1.XM12.nsg13_lv_pmos[gds]
  * save @n.x1.XM13.nsg13_lv_nmos[gds]  
  * save @n.x1.XM0.nsg13_lv_pmos[ids]
  * save @n.x1.XM1.nsg13_lv_pmos[ids]
  * save @n.x1.XM2.nsg13_lv_pmos[ids]
  * save @n.x1.XM3.nsg13_lv_nmos[ids]
  * save @n.x1.XM4.nsg13_lv_nmos[ids]
  * save @n.x1.XM5.nsg13_lv_nmos[ids]
  * save @n.x1.XM6.nsg13_lv_nmos[ids]
  * save @n.x1.XM7.nsg13_lv_pmos[ids]
  * save @n.x1.XM8.nsg13_lv_pmos[ids]
  * save @n.x1.XM9.nsg13_lv_pmos[ids]
  * save @n.x1.XM10.nsg13_lv_pmos[ids]
  * save @n.x1.XM11.nsg13_lv_pmos[ids]
  * save @n.x1.XM12.nsg13_lv_pmos[ids]
  * save @n.x1.XM13.nsg13_lv_nmos[ids]  
  * save @n.x1.XM0.nsg13_lv_pmos[vds]
  * save @n.x1.XM1.nsg13_lv_pmos[vds]
  * save @n.x1.XM2.nsg13_lv_pmos[vds]
  * save @n.x1.XM3.nsg13_lv_nmos[vds]
  * save @n.x1.XM4.nsg13_lv_nmos[vds]
  * save @n.x1.XM5.nsg13_lv_nmos[vds]
  * save @n.x1.XM6.nsg13_lv_nmos[vds]
  * save @n.x1.XM7.nsg13_lv_pmos[vds]
  * save @n.x1.XM8.nsg13_lv_pmos[vds]
  * save @n.x1.XM9.nsg13_lv_pmos[vds]
  * save @n.x1.XM10.nsg13_lv_pmos[vds]
  * save @n.x1.XM11.nsg13_lv_pmos[vds]
  * save @n.x1.XM12.nsg13_lv_pmos[vds]
  * save @n.x1.XM13.nsg13_lv_nmos[vds]  
  * save @n.x1.XM0.nsg13_lv_pmos[vgs]
  * save @n.x1.XM1.nsg13_lv_pmos[vgs]
  * save @n.x1.XM2.nsg13_lv_pmos[vgs]
  * save @n.x1.XM3.nsg13_lv_nmos[vgs]
  * save @n.x1.XM4.nsg13_lv_nmos[vgs]
  * save @n.x1.XM5.nsg13_lv_nmos[vgs]
  * save @n.x1.XM6.nsg13_lv_nmos[vgs]
  * save @n.x1.XM7.nsg13_lv_pmos[vgs]
  * save @n.x1.XM8.nsg13_lv_pmos[vgs]
  * save @n.x1.XM9.nsg13_lv_pmos[vgs]
  * save @n.x1.XM10.nsg13_lv_pmos[vgs]
  * save @n.x1.XM11.nsg13_lv_pmos[vgs]
  * save @n.x1.XM12.nsg13_lv_pmos[vgs]
  * save @n.x1.XM13.nsg13_lv_nmos[vgs] 
  * save @n.x1.XM0.nsg13_lv_pmos[vth]
  * save @n.x1.XM1.nsg13_lv_pmos[vth]
  * save @n.x1.XM2.nsg13_lv_pmos[vth]
  * save @n.x1.XM3.nsg13_lv_nmos[vth]
  * save @n.x1.XM4.nsg13_lv_nmos[vth]
  * save @n.x1.XM5.nsg13_lv_nmos[vth]
  * save @n.x1.XM6.nsg13_lv_nmos[vth]
  * save @n.x1.XM7.nsg13_lv_pmos[vth]
  * save @n.x1.XM8.nsg13_lv_pmos[vth]
  * save @n.x1.XM9.nsg13_lv_pmos[vth]
  * save @n.x1.XM10.nsg13_lv_pmos[vth]
  * save @n.x1.XM11.nsg13_lv_pmos[vth]
  * save @n.x1.XM12.nsg13_lv_pmos[vth]
  * save @n.x1.XM13.nsg13_lv_nmos[vth]  

  echo
  echo (A) start of OP
  echo ----------------------------------
  * --- Initial Operating Point ---
  op
  write
  set appendwrite

  echo
  echo (B) start of AC Sim
  echo ----------------------------------
  * --- AC Analysis ---
  echo (1) Running the AC simulation
  ac dec 10 1 1e12
  * print v(out) 

  echo (2) measuring performance metrics
  let out_mag = db(out)
  let out_phase = cphase(out) * 180/pi

  meas ac GMAX max out_mag
  meas ac DCGAIN MAX out_mag FROM=10 TO=10k

  let f3db = DCGAIN-3
  meas ac FBW WHEN out_mag=f3db FALL=1

  meas ac unity_gain_phase find out_phase when out_mag=0
  meas ac UGF when out_mag=0 fall=1

  let PM = (180-unity_gain_phase) % 180

  echo SAVING SIMULATION RESULTS IN THE RAW FILE  
  remzerovec
  write

  echo ----------------------------------
  echo END of AC sim
  echo  ----------------------------------


  echo
  echo (C) start of Noise sim
  echo ----------------------------------

  noise v(out) V3 lin 1000 1MEG 1000MEG 1
  echo SAVING SIMULATION RESULTS IN THE RAW FILE  
  echo NOISE 1 saving the Integrated Noise
  setplot noise1
  remzerovec
  write

  echo NOISE 2 saving the Noise Spectral Density Curves
  setplot noise2 
  remzerovec
  write

  echo ----------------------------------
  echo END of Noise sim
  echo  ----------------------------------
 

  echo ==================================
  echo END of Control
  echo ==================================
  quit 
  * ^ This is needed for spicelib (uncommented)
.endc
*----------------------------------------------------------*

* Subcircuit Definition
*----------------------------------------------------------*

.subckt opamp vin- vin+ vout vdd ib vss

XM4 net6 net2 vss vss sg13_lv_nmos w= x_dut_W_2 l= x_dut_L_2 ng= x_dut_NG_2 m=1
XM1 net1 vin+ net7 vdd sg13_lv_pmos w= x_dut_W_1 l= x_dut_L_1 ng= x_dut_NG_1 m=1
XM2 net1 vin- net6 vdd sg13_lv_pmos w= x_dut_W_1 l= x_dut_L_1 ng= x_dut_NG_1 m=1
XM3 net7 net2 vss vss sg13_lv_nmos w= x_dut_W_2 l= x_dut_L_2 ng= x_dut_NG_2 m=1
XM11 vdd ib ib vdd sg13_lv_pmos w= x_dut_W_6 l= x_dut_L_6 ng= x_dut_NG_6 m=1
XM0 vdd ib net1 vdd sg13_lv_pmos w= x_dut_W_6 l= x_dut_L_6 ng= x_dut_NG_6 m=1
XM6 vout vb1 net6 vss sg13_lv_nmos w= x_dut_W_3 l= x_dut_L_3 ng= x_dut_NG_3 m=1
XM5 net3 vb1 net7 vss sg13_lv_nmos w= x_dut_W_3 l= x_dut_L_3 ng= x_dut_NG_3 m=1
XM7 net5 vb2 net3 vdd sg13_lv_pmos w= x_dut_W_4 l= x_dut_L_4 ng= x_dut_NG_4 m=1
XM8 net4 vb2 vout vdd sg13_lv_pmos w= x_dut_W_4 l= x_dut_L_4 ng= x_dut_NG_4 m=1
XM9 vdd net3 net5 vdd sg13_lv_pmos w= x_dut_W_5 l= x_dut_L_5 ng= x_dut_NG_5 m=1
XM10 vdd net3 net4 vdd sg13_lv_pmos w= x_dut_W_5 l= x_dut_L_5 ng= x_dut_NG_5 m=1
XM12 vdd ib net2 vdd sg13_lv_pmos w= x_dut_W_7 l= x_dut_L_7 ng= x_dut_NG_7 m=1
XM13 net2 net2 vss vss sg13_lv_nmos w= x_dut_W_2 l= x_dut_L_2 ng= x_dut_NG_2 m=1
V1 vb1 vss x_dut_Vb1
V2 vb2 vss x_dut_Vb2
.ends

*----------------------------------------------------------*

* Technology Library
*----------------------------------------------------------*
.lib cornerMOSlv.lib mos_tt


* Testbench
*----------------------------------------------------------*
V1 vdd GND VDD
C2 out GND CL m=1
V3 vin+ vin- 0 ac 1 0
V2 vin- GND VCM
x1 vin- vin+ out vdd ib GND opamp
I0 ib GND x_dut_IB
* .subckt opamp vin- vin+ vout vdd ib vss
* .ends
.GLOBAL GND
.end
